US08809382B2
Step 5 (5-(3-Hexyl-1-methyl-1H-indol-2-yl)-5-oxo-pentanoic acid)
To a solution of 5-(3-hexyl-1-methyl-1H-indol-2-yl)-5-oxo-pentanoic acid methyl ester in isopropanol and water was added LiOH and stirred for 3 hours. The reaction was treated with 1M HCL and ethyl acetate. The product was purified by column chromatography.

reactant | 5-(3-hexyl-1-methyl-1H-indol-2-yl)-5-oxo-pentanoic acid methyl ester | COC(CCCC(=O)C=1N(C2=CC=CC=C2C1CCCCCC)C)=O | C21H29NO3
reactant | LiOH | [Li+].[OH-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 5-(3-Hexyl-1-methyl-1H-indol-2-yl)-5-oxo-pentanoic acid | C(CCCCC)C1=C(N(C2=CC=CC=C12)C)C(CCCC(=O)O)=O | C20H27NO3
